US05602246
Example 1a: 2',3',5'-Tri-O-acetylguanosine
Acetic anhydride (89.3 mL, 0.95 mol) was added rapidly to a magnetically stirred suspension of anhydrous guanosine (76.56 g, 0.27 mol), 4-dimethylaminopyridine (DMAP, 2.47 g, 0.02 mol), and triethylamine (TEA, 149 mL, 1.07 mol) in acetonitrile (500 mL, synthesis grade). The mixture was stirred magnetically, and, after a short induction period, a substantial exotherm was observed as the temperature of the mixture rose to about 50° C. Within 3-5 minutes, the mixture became a faintly cloudy solution. This solution was stirred for 30 minutes, at which time TLC (silica gel plates eluted with 6:3:1 ethyl acetate:DMF:1-butanol) showed only the title compound and a trace of N2 -acetyl-2',3',5'-tri-O-acetylguanosine at higher Rf and DMAP at very low Rf.

reactant | Acetic anhydride | 0.95 mol, 89.3 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | guanosine | 0.27 mol, 76.56 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | C10H13N5O5
reactant | triethylamine | 1.07 mol, 149 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | 1-butanol | C(CCC)O | C4H10O
catalyst | 4-dimethylaminopyridine | 0.02 mol, 2.47 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
solvent | DMF | CN(C)C=O | C3H7NO
product | 2',3',5'-Tri-O-acetylguanosine | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C=NC=2C(=O)NC(N)=NC12 | C16H19N5O8
